US05360813
2-(2,4-Dichlorophenyl)-3-(ethanesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
Following the procedure described in example 1 but using 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol and ethanesulfonylchloride, the title compound was obtained in a similar yield:

reactant | 3-amino-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | NCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C11H12Cl2N4O
reactant | ethanesulfonylchloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 2-(2,4-Dichlorophenyl)-3-(ethanesulfonamido)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CNS(=O)(=O)CC)O | C13H16Cl2N4O3S
